US06743919B2
A solution of 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid (60 mg) and concentrated sulfuric acid (1 mL) in methanol (100 mL) was heated to reflux overnight. After removal of solvent, the mixture was dissolved in ethyl acetate and washed with 5% sodium hydroxide solution. The organic layers were dried over magnesium sulfate and evaporated to dryness. The product 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid methyl ester (55 mg, yield 89%) was purified by flash column chromatography (ethyl acetate:hexane=1:1). 1H NMR (acetone-d6) δ3.84 (s, 3H), 5.65 (s, 2H), 7.2-7.4 (m, 6H), 7.48 (m, 1H), 7.95 (s, 1H), 8.45 (m, 1H), 9.48(s, 1H) ppm; ESMS calcd (C21H16ClN3O3): 393.09; found: 394.1 (M+H)+.

reactant | 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid | 60 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C2=NC=C(N2)C(=O)O)C=C1 | C20H14ClN3O3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-[1-(4-chloro-benzyl)-1H-indole-3-carbonyl]-3H-imidazole-4-carboxylic acid methyl ester | 55 mg, yield 89% | COC(=O)C=1NC(=NC1)C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)Cl | C21H16ClN3O3
